US06251925B1
(R)-5-[3-[[2-[[2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]phenyl]-3-pyridinecarboxylic acid as a yellow solid (115 mg);
n.m.r. (CD3OD) δ values include 3.11-3.29 (m, 1 H), 3.58 (t, 2 H), 4.97 (dd, 1 H), 6.76 (d, 1 H), 6.97 (s, 1 H), 6.99 (d, 1 H), 7.26-7.35 (m, 4 H), 7.46 (s, 1 H), 8.51 (s, 1 H), 8.76 (s, 1 H), 9.00 (s, 1 H); from (R)-5-[3-[[2-[[2-(3-chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]phenyl]-3-pyridinecarboxylic acid methyl ester (251 mg), 4 N hydrochloric acid in 1,4-dioxane (10 mL) and lithium hydroxide monohydrate (96 mg) in 3:1 tetrahydrofuran-water (20 mL).

reactant | (R)-5-[3-[[2-[[2-(3-chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]phenyl]-3-pyridinecarboxylic acid methyl ester | 251 mg | COC(=O)C=1C=NC=C(C1)C1=CC(=CC=C1)NCCN(C(=O)OC(C)(C)C)C[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=CC=C1)Cl | C34H46ClN3O5Si
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | lithium hydroxide monohydrate | 96 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran water | 20 mL | O1CCCC1.O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-5-[3-[[2-[[2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]phenyl]-3-pyridinecarboxylic acid | ClC=1C=C(C=CC1)[C@H](CNCCNC=1C=C(C=CC1)C=1C=C(C=NC1)C(=O)O)O | C22H22ClN3O3
